US06680317B2
c) N-(2-Methyl-3-fluorophenyl)-N′-[4-chloro-2-tert-butyldimethylsilyloxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]thiourea
Following the general procedure for protected phenyl thiourea formation outlined in example 12, N-[4-chloro-2-hydroxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]-N′-(2-methyl-3-fluorophenyl)thiourea (530 mg, 1.27 mmol), tert-butyldimethylsilyl chloride (951 mg, 6.35 mmol) and imidazole (173 mg, 2.54 mmol) were reacted to form the desired product (331 mg, 49%). EI-MS m/z 532.2 (M+).

reactant | phenyl thiourea | C1(=CC=CC=C1)NC(=S)N | C7H8N2S
reactant | N-[4-chloro-2-hydroxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]-N′-(2-methyl-3-fluorophenyl)thiourea | 1.27 mmol, 530 mg | ClC1=C(C(=C(C=C1)NC(=S)NC1=C(C(=CC=C1)F)C)O)S(=O)(=O)N(C)C | C16H17ClFN3O3S2
reactant | tert-butyldimethylsilyl chloride | 6.35 mmol, 951 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 2.54 mmol, 173 mg | N1C=NC=C1 | C3H4N2
product | N-(2-Methyl-3-fluorophenyl)-N′-[4-chloro-2-tert-butyldimethylsilyloxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]thiourea | 331 mg, 49% | CC1=C(C=CC=C1F)NC(=S)NC1=C(C(=C(C=C1)Cl)S(=O)(=O)N(C)C)O[Si](C)(C)C(C)(C)C | C22H31ClFN3O3S2Si
